US06727249B2
(1R*,2R*,5S*,6R*)-8-Benzyl-1-(4-fluorophenyl)-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-ol
(1R*,5S*,6R*)-8-Benzyl-1-(4-fluorophenyl)-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-one (Description 13; 11.65 g, 25.95 mmol) was stirred in methanol (100 ml) then sodium borohydride (981 mg, 25.95 mmol) added and the mixture stirred at room temperature for 2 hours. The reaction mixture was quenched with water then concentrated in vacuo and partitioned between water and ethyl acetate. The organics were collected, dried (MgSO4), and concentrated in vacuo to give a cream solid which was triturated in diethyl ether and filtered to give the title compound as a cream-coloured solid (7.26 g, 62%).

reactant | (1R*,5S*,6R*)-8-Benzyl-1-(4-fluorophenyl)-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-one | 25.95 mmol, 11.65 g | C(C1=CC=CC=C1)N1[C@@]2(C(CC[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)=O)C2=CC=C(C=C2)F | C26H24FNO3S
reactant | sodium borohydride | 25.95 mmol, 981 mg | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | (1R*,2R*,5S*,6R*)-8-Benzyl-1-(4-fluorophenyl)-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-ol | 7.26 g, 62% | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)O)C2=CC=C(C=C2)F | C26H26FNO3S
